US08748624B2
STEP C: 3-(5-(2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)-5-methylphenyl)picolinamido)propanoic acid
A 1M aqueous solution of NaOH (2.0 mL, 2.0 mmol) was added to a THF (1 mL) and MeOH (5 mL) solution of ethyl 3-(5-(2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)-5-methylphenyl)picolinamido)propanoate (50 mg, 0.09 mmol) and the resulting mixture was heated to 55° C. After 10 min the resulting mixture was neutralized with 2M aqueous HCl, concentrated and extracted with EtOAc. The combined extracts were concentrated and purified via column chromatography to yield the title compound.

reactant | NaOH | 2.0 mmol, 2.0 mL | [OH-].[Na+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)-5-methylphenyl)picolinamido)propanoate | 0.09 mmol, 50 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C1=C(C=C(C=C1)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C31H28ClN3O4
reactant | HCl | 2M | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(5-(2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)-5-methylphenyl)picolinamido)propanoic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C1=C(C=C(C=C1)C)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C29H24ClN3O4
